US06884821B1
2.2 g of ethyl 1-methyl-2-phenyl-1H-5-imidazolecarboxylate was dissolved in 20 ml ethanol and 2 ml of 5N sodium hydroxide was added, followed by heating under reflux for 1 hour. The reaction solution was ice-cooled and neutralized with 2N hydrochloric acid, followed by extracting with a mixed solvent of ethyl acetate and tetrahydrofuran. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give 1.1 g of 1-methyl-2-phenyl-1H-5-imidazolecarboxylic acid.

reactant | ethyl 1-methyl-2-phenyl-1H-5-imidazolecarboxylate | 2.2 g | CN1C(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C13H14N2O2
reactant | sodium hydroxide | 5N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-methyl-2-phenyl-1H-5-imidazolecarboxylic acid | 1.1 g | CN1C(=NC=C1C(=O)O)C1=CC=CC=C1 | C11H10N2O2
